US06627651B1
Into a solution of 4-(4-methylphenyl)-2-nitrobenzaldehyde (590 mg) in THF (50 ml) was added a solution of sodium hydrosulfite (2.66 g)/water (25 ml). After being stirred at room temperature for 10 minutes, the reaction mixture was extracted with ethyl acetate, and the extract was washed with an aqueous solution of sodium chloride. The extract was dried (anhydrous magnesium sulfate) and was then concentrated to obtain 2-amino-4-(4-methylphenyl)benzaldehyde (0.26 g) as a light brown powder.

reactant | 4-(4-methylphenyl)-2-nitrobenzaldehyde | 590 mg | CC1=CC=C(C=C1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C14H11NO3
reactant | sodium hydrosulfite | 2.66 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 25 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-amino-4-(4-methylphenyl)benzaldehyde | 0.26 g | NC1=C(C=O)C=CC(=C1)C1=CC=C(C=C1)C | C14H13NO
